US08492549B2
Methanesulfonic acid (R)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester
To a stirred solution of crude ((S)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol (1.65 g, 6.06 mmol) in dry DCM (10 ml), was added triethylamine (0.88 ml). The mixture was cooled to 0° C. and methanesulfonyl chloride (0.49 ml) was added slowly dropwise to reaction mixture. The mixture was stirred at RT for 1 h and then 10 ml of aq 1 M HCl was added. The mixture was extracted twice with DCM. The combined organic layers were washed with water and brine, dried with Na2SO4 The solvents were removed under reduced pressure and the crude product (2.22 g) was crystallized from IPA (15 ml), which gave a white solid (1.50 g).

reactant | ((S)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol | 6.06 mmol, 1.65 g | C(C1=CC=CC=C1)OC1=CC2=C(O[C@H](CO2)CO)C=C1 | C16H16O4
reactant | triethylamine | 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.49 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1 M | Cl | ClH
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid (R)-6-benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl ester | 1.50 g | C(C1=CC=CC=C1)OC1=CC2=C(O[C@H](CO2)COS(=O)(=O)C)C=C1 | C17H18O6S
